US06677341B2
To a solution of (2R)-3-[[[3-(1,1,2,2-tetrafluoroethoxy]phenyl]methyl][3,3,3-trifluoro-2-hydroxypropyl)amino]phenol (100 mg, 0.23 mmol) from EX-20B and 3-trifluoromethylbenzyl bromide (70.0 mg, 0.27 mmol) in 2.5 mL of acetone was added cesium carbonate (100 mg, 0.31 mmol). The reaction mixture was heated at 60° C. for 18 h then cooled to room temperature. The reaction mixture was filtered through celite, and the filtrate was concentrated. The residue was purified by reverse phase HPLC eluting with 50% to 90% acetonitrile in water to afford 63.3 mg (45%) of the desired (2R)-3-[[[3-(1,1,2,2-tetrafluoroethoxy)phenyl]methyl][3-[[3-(trifluoro-methyl)phenyl]-methoxy]phenyl]amino]-1,1,1-trifluoro-2-propanol product as an orange oil. HRMS calcd. for C26H21F10NO3: 586.1440 [M+H]+, found: 586.1419. 1H NMR (acetone-d6) δ 7.61-7.82 (m, 4H), 7.41 (t, 1H), 7.25 (d, 1H), 7.10-7.21 (m, 3H), 6.34-6.67 (m, 4H), 5.73 (d, 1H), 5.19 (s, 2H), 4.82 (s, 2H), 4.34-4.48 (m, 1H), 3.99 (dd, 1H), 3.68 (dd, 1H).

reactant | (2R)-3-[[[3-(1,1,2,2-tetrafluoroethoxy]phenyl]methyl][3,3,3-trifluoro-2-hydroxypropyl)amino]phenol | 0.23 mmol, 100 mg | FC(C(F)F)(OC=1C=C(C=CC1)CN(C=1C=C(C=CC1)O)C[C@H](C(F)(F)F)O)F | C18H16F7NO3
reactant | 3-trifluoromethylbenzyl bromide | 0.27 mmol, 70.0 mg | FC(C=1C=C(CBr)C=CC1)(F)F | C8H6BrF3
reactant | cesium carbonate | 0.31 mmol, 100 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 2.5 mL | CC(=O)C | C3H6O
product | (2R)-3-[[[3-(1,1,2,2-tetrafluoroethoxy)phenyl]methyl][3-[[3-(trifluoro-methyl)phenyl]-methoxy]phenyl]amino]-1,1,1-trifluoro-2-propanol | 63.3 mg, 45% | FC(C(F)F)(OC=1C=C(C=CC1)CN(C[C@H](C(F)(F)F)O)C1=CC(=CC=C1)OCC1=CC(=CC=C1)C(F)(F)F)F | C26H21F10NO3
